US07547691B2
A suspension of 2-[2-(3-aminopropylamino)-5-chloropyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide (500 mg, 1.24 mmol) in dichloromethane (30 mL) is treated at room temperature with piperidine-1,4-dicarboxylic acid mono-tert-butyl ester (340 mg, 1.48 mmol) in the presence of N,N-diisopropylethylamine (0.220 mL, 163 mg, 1.26 mmol), 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride (240 mg, 1.25 mmol), and 1-hydroxybenzotriazole (171 mg, 1.21 mmol) for 24 hours. The mixture is then diluted with dichloromethane (30 mL), filtered, washed with H2O (30 mL), and diethyl ether (30 mL), and dried to provide 4-{3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propylcarbamoyl}-piperidine-1-carboxylic acid tert-butyl ester (700 mg, 92%). A stirred mixture of this intermediate (695 mg, 1.13 mmol) in dichloromethane (25 mL) is treated at room temperature with TFA (2.5 mL) for 72 hours. The mixture is then concentrated under reduced pressure, and subjected to chromatographic purification on silica gel, eluting with 2 M NH3/MeOH in dichloromethane: 16-40%, to provide the title compound (492 mg, 85% yield).

reactant | 2-[2-(3-aminopropylamino)-5-chloropyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | 1.24 mmol, 500 mg | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN | C19H20ClN5OS
reactant | piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 1.48 mmol, 340 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | N,N-diisopropylethylamine | 1.26 mmol, 0.220 mL, 163 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-diethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.25 mmol, 240 mg | Cl.C(C)N(CCCN=C=NCC)CC
reactant | 1-hydroxybenzotriazole | 1.21 mmol, 171 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-{3-[5-chloro-4-(4-cyclopropylcarbamoyl-benzo[b]thiophen-2-yl)-pyrimidin-2-ylamino]-propylcarbamoyl}-piperidine-1-carboxylic acid tert-butyl ester | 700 mg, 92% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NCCCNC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(NC2CC2)=O)Cl)=O | C30H37ClN6O4S
